US05447657
0.73 g of potassium t-butylate was added to a suspension of 2.3 g of methyltriphenylphosphonium bromide in 25 ml of t-butyl methyl ether in a nitrogen atmosphere and the mixture was stirred at room temperature for 0.5 hour. Then, a solution of 0.8 g of trans-4-[(4'-fluoro-4-biphenylyl)ethynyl]cyclohexanecarboxaldehyde in 25 ml of t-butyl methyl ether was added dropwise at 0° C. and the reaction mixture was stirred at 0° C. for a further 0.5 hour and at room temperature for 2.5 hours, thereafter washed with 50 ml of saturated sodium hydrogen carbonate solution and with 50 ml of saturated sodium chloride solution, dried over sodium sulphate, filtered and concentrated. The residue was chromatographed on silica gel with hexane. The 4-[(trans-4-vinylcyclohexyl)ethynyl]-4'-fluorobiphenyl obtained was purified by recrystallization from hexane; m.p. (C-N) 133.9° C., cI.p. (N-I) 170° C.

reactant | trans-4-[(4'-fluoro-4-biphenylyl)ethynyl]cyclohexanecarboxaldehyde | 0.8 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C#C[C@@H]1CC[C@H](CC1)C=O | C21H19FO
reactant | t-butyl methyl ether | 25 ml | COC(C)(C)C | C5H12O
reactant | t-butyl methyl ether | 25 ml | COC(C)(C)C | C5H12O
catalyst | methyltriphenylphosphonium bromide | 2.3 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[(trans-4-vinylcyclohexyl)ethynyl]-4'-fluorobiphenyl | C(=C)[C@@H]1CC[C@H](CC1)C#CC1=CC=C(C=C1)C1=CC=C(C=C1)F | C22H21F
